US08017602B2
Step iii) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(oxazol-5-yl)phenethoxy)propanamide
To N-cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-formylphenethoxy)propanamide [Example 10, Step ii)] (600 mg) in a 10 ml microwave vial was added toluenesulfonylmethyl isocyanide (329 mg), potassium carbonate (233 mg) and methanol (2 mL). The vial was sealed and heated at 80° C. for 40 min within a microwave before cooling to room temperature. The solvents were evaporated under vacuum followed by the addition of water, which was extracted once with ethyl acetate. The organic phase was washed once with water, dried over sodium sulphate, filtered and the solvent removed to afford desired material, which was carried onto the next step directly. MS [M+H-MeOH]+=399 (MultiMode+)

reactant | N-cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-formylphenethoxy)propanamide | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=O)=O)CC(OC)OC | C22H33NO5
reactant | toluenesulfonylmethyl isocyanide | 329 mg | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 233 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2 mL | CO | CH4O
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(oxazol-5-yl)phenethoxy)propanamide | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C1=CN=CO1)=O)CC(OC)OC | C24H34N2O5
